US04594409
N-t-butoxycarbonyl-prolyl-phenylalanyl-glycine was synthesized from N-t-butoxycarbonyl-prolyl-phenylalanyl-glycine ethyl ester in the same manner as described in Example 1 in yield of 89.8%. Crystals obtained by recrystallization from ethyl acetate and petroleum ether had a melting point of 98°-100° C. and Rf=0.67 (TLC, chloroform: methanol: acetic acid=95:5:3 by volume).

reactant | N-t-butoxycarbonyl-prolyl-phenylalanyl-glycine ethyl ester | C(C)OC(CNC([C@@H](NC([C@H]1N(CCC1)C(=O)OC(C)(C)C)=O)CC1=CC=CC=C1)=O)=O | C23H33N3O6
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | methanol | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-t-butoxycarbonyl-prolyl-phenylalanyl-glycine | yield of 89.8% | C(C)(C)(C)OC(=O)N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)NCC(=O)O)CCC1 | C21H29N3O6
